US04945171
Preparation of 3-acetoxy-5'-carboxy-10-dimethylamino-spiro[7H-benzo[c]xanthene-7,1'(3'H)-isobenzofuran]-3'-one, 14.
To prepare the acetate from 8, 300 mg 5'-carboxy-10-dimethylamino-3-hydroxy-spiro[7H-benzo[c]xanthene-7,1'(3'H)-isobenzofuran]-3'-one was added 5 ml acetic anhydride and the solution refluxed for 2 hours. The solution was poured into water and stirred overnight to hydrolyze excess actic anhydride. The resulting solid was collected and purified by silica gel chromatography with 10% methanol with chloroform to give 0.16 g dark violet solid, Rf =0.37 with methanol:chloroform (1:9). Absorbance maxima in potassium phosphate buffer at pH 7.0 at 511 and 540 nm; extinction coefficients of 24,100 and 21,700 cm-1M-1 respectively.

reactant | acetate | C(C)(=O)[O-]
reactant | 5'-carboxy-10-dimethylamino-3-hydroxy-spiro[7H-benzo[c]xanthene-7,1'(3'H)-isobenzofuran]-3'-one | 300 mg | C(=O)(O)C=1C=C2C(OC3(C2=CC1)C=1C=CC(=CC1OC=1C2=C(C=CC13)C=C(C=C2)O)N(C)C)=O | C27H19NO6
reactant | acetic anhydride | 5 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | O | H2O
product | 3-acetoxy-5'-carboxy-10-dimethylamino-spiro[7H-benzo[c]xanthene-7,1'(3'H)-isobenzofuran]-3'-one | 0.16 g | C(C)(=O)OC=1C=CC2=C(C=CC3=C2OC=2C=C(C=CC2C32OC(C3=CC(=CC=C23)C(=O)O)=O)N(C)C)C1 | C29H21NO7
